US09260408B2
6-Pyridin-3-yl-3,4-dihydro-1H-[1,5]naphthyridin-2-one
In analogy to the procedures described for the preparation of example 32 (steps [C] to [D]), the title compound was prepared using 3-(6-bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester and 3-pyridine boronic acid as corresponding starting materials. MS: 226.1 (M+H+).

reactant | 3-(6-bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester | COC(CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1[N+](=O)[O-])Br)=O | C16H15BrN2O6S
reactant | 3-pyridine boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 6-Pyridin-3-yl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | N1=CC(=CC=C1)C=1N=C2CCC(NC2=CC1)=O | C13H11N3O
